US04985461
To a stirred suspension of t-butylhydrazine hydrochloride (1.24 g, 10 mmoles) in toluene (50 ml) at room temperature, was added dropwise a solution of 50% aqueous sodium hydroxide (0.8 g, 10 ml). After 15 minutes, the reaction mixture was cooled to 5° C. and solutions of benzoyl chloride (2.82 gm, 20 ml) in toluene (7 ml) and 50% aqueous sodium hydroxide (1.6 g) were added dropwise and simultaneously from separate addition funnels while maintaining the temperature below 10° C. Following the addition, the reaction mixture was warmed to room temperature and stirred for 1 hr. The reaction mixture was diluted with ether and the product isolated by filtration. The product was washed with water and ether and dried. The product was recrystallized from ether-methanol to afford N'-t-butyl-N,N'-dibenzoylhydrazine as a white powder: m.p. 174°-176° C.

reactant | t-butylhydrazine hydrochloride | 10 mmoles, 1.24 g | Cl.C(C)(C)(C)NN
reactant | sodium hydroxide | 10 ml, 0.8 g | [OH-].[Na+]
reactant | benzoyl chloride | 20 ml, 2.82 gm | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
product | N'-t-butyl-N,N'-dibenzoylhydrazine | C(C)(C)(C)N(NC(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O | C18H20N2O2
